US04880809
A mixture of 2,3-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (10 g), benzyl chloride (8 g), anhydrous potassium carbonate (9 g) and acetone (200 ml) is stirred at 50° C. for two hours. The reaction mixture is cooled and filtered off. The filtrate is concentrated under reduced pressure. The concentrate is dissolved in ethyl acetate. The organic layer is washed with water, dried and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent, hexane:ethyl acetate:methylene chloride=3:1:1) to afford 2-benzyloxy-3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (8.8 g). This product is recrystallized from ethyl acetate-hexane to give colorless needles, m.p. 127°-128° C.

reactant | 2,3-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 10 g | OC=1C(=CC2=C(CCCCC2=O)C1)O | C11H12O3
reactant | benzyl chloride | 8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-benzyloxy-3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 8.8 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(CCCCC2=O)C1)O | C18H18O3
